US06995162B2
1-Boc-3-(3-nitro-5-trifluoromethyl-phenoxymethyl)-azetidine
A mixture of 1-Boc-3-methylsulfonyloxymethyl-azetidine (1.47 g), 3-nitro-5-trifluoromethyl-phenol (1.15 g) and K2CO3 (1.15 g) in DMF(20 ml) at 80° C. was stirred overnight. The reaction was cooled to RT and diluted with 25 mL of sat. NaHCO3 and 50 mL of EtOAc. The organic phase was separated and washed with brine (25 mL), dried over Na2SO4 and concentrated in vacuo. The crude compound was purified by column chromatography (50% EtOAc/hex).

reactant | 1-Boc-3-methylsulfonyloxymethyl-azetidine | 1.47 g | C(=O)(OC(C)(C)C)N1CC(C1)COS(=O)(=O)C | C10H19NO5S
reactant | 3-nitro-5-trifluoromethyl-phenol | 1.15 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)O | C7H4F3NO3
reactant | K2CO3 | 1.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-Boc-3-(3-nitro-5-trifluoromethyl-phenoxymethyl)-azetidine | C(=O)(OC(C)(C)C)N1CC(C1)COC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C16H19F3N2O5
